US06462207B1
Synthesis of Methoxyethoxy-(3E)-1,3-Pentadiene
Under a nitrogen atmosphere, to a stirred solution of sodium (0.53 g, 23 mmol) in 2-methoxyethanol (50 mL) at room temperature was added 5-bromo-(3E)-1,3-pentadiene (3.38 g, 23 mmol). The mixture was stirred overnight and then refluxed for three more hours. Excess 2-methoxyethanol was removed by distillation. Water was added to the cooled reaction mixture, which was then extracted with diethyl ether. The diethyl ether solution was dried over MgSO4, then stripped off at reduced pressure. Distillation at 87-88° C., 31 mmHg (water aspirator) yielded 2.46 g (75%) of the desired compound.

reactant | sodium | 23 mmol, 0.53 g | [Na] | Na
reactant | 5-bromo-(3E)-1,3-pentadiene | 23 mmol, 3.38 g | BrC/C=C/C=C | C5H7Br
reactant | 2-methoxyethanol | 50 mL | COCCO | C3H8O2
product | Methoxyethoxy-(3E)-1,3-Pentadiene | 2.46 g, 75% | COCCOC=C\C=C\C | C8H14O2
